US06239131B1
Preparation of (R)-1-(2-oxo-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(4-tert-butoxycarbonylphenyl)urea
Tert-butyl 3-aminobenzoate (1.63 g) was dissolved in tetrahydrofuran (30 ml), the solution was cooled to internal temperature 5-8° C. Triphosgene (0.91 g) was added to the solution, stirred for 5 minutes. Subsequently triethylamine (4.30 ml) was added thereto four times after divided into four portions. After the mixture was stirred at room temperature for 10 minutes, a solution of (R)-2-oxo-3-amino-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (2.10 g) in tetrahydrofuran (10 ml) was added, the resultant mixture was stirred for one hour. Water and ethyl acetate were added the reaction mixture, and extracted. The organic layer was successively washed with water and saturated brine, dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, to thereby obtain 3.28 g of the title compound as amorphous (Yield: 86.8%).

reactant | Tert-butyl 3-aminobenzoate | 1.63 g | NC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C11H15NO2
reactant | Triphosgene | 0.91 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 4.30 ml | C(C)N(CC)CC | C6H15N
reactant | (R)-2-oxo-3-amino-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 2.10 g | O=C1[C@@H](CN(C2=C(N1)C=C(C=C2)C)C2CCCCC2)N | C16H23N3O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | (R)-1-(2-oxo-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(4-tert-butoxycarbonylphenyl)urea | 3.28 g, Yield: 86.8% | O=C1[C@@H](CN(C2=C(N1)C=C(C=C2)C)C2CCCCC2)NC(=O)NC2=CC=C(C=C2)C(=O)OC(C)(C)C | C28H36N4O4
